Q11 (net15 net15 net53 0) pnp
Q10 (net15 net15 net52 0) pnp
Q1 (net12 VB1 net50 0) pnp
Q0 (net18 VB1 net49 0) pnp
Q15 (net26 VB2 net42 0) npn
Q14 (net32 net25 net28 0) npn
Q13 (net28 net28 net44 0) npn
Q12 (net25 net28 net43 0) npn
Q9 (net20 VB2 net45 0) npn
Q8 (net15 VB2 net46 0) npn
Q7 (net8 VB2 net47 0) npn
Q6 (VDD net7 net8 0) npn
Q5 (VDD VIN1 net20 0) npn
Q4 (net18 net20 net51 0) npn
Q3 (net12 net8 net54 0) npn
Q2 (VDD VB1 net48 0) npn
R15 (VOUT1 VSS) resistor
R14 (net42 VSS) resistor
R13 (VDD net49) resistor
R12 (VDD net50) resistor
R11 (net40 VSS) resistor
R10 (net40 VSS) resistor
R9 (net24 VSS) resistor
R8 (net24 VSS) resistor
R7 (net10 VSS) resistor
R6 (net44 net40) resistor
R5 (net43 net24) resistor
R4 (net45 net10) resistor
R3 (net46 net10) resistor
R2 (net47 net10) resistor
R1 (net51 net52) resistor
R0 (net54 net53) resistor
M2 (net26 net26 net48 VDD) pmos4
M1 (net32 net26 net12 VDD) pmos4
M0 (net25 net26 net18 VDD) pmos4
M6 (VOUT1 VCLK1 net7 VSS) nmos4
M5 (VDD net33 VOUT1 VSS) nmos4
M4 (net33 VCLK1 net32 VSS) nmos4
M3 (net32 VCLK2 net7 VSS) nmos4
C0 (net33 VSS) capacitor