R26 (net77 VOUT1) resistor
R25 (net67 net69) resistor
R24 (net72 net71) resistor
R23 (net71 VSS) resistor
R22 (net62 VSS) resistor
R21 (net57 VSS) resistor
R20 (net96 VSS) resistor
R19 (net95 VSS) resistor
R18 (net94 VSS) resistor
R17 (VDD net97) resistor
R16 (VDD net98) resistor
R15 (VDD net99) resistor
R14 (net105 VSS) resistor
R13 (VDD net108) resistor
R12 (VDD net112) resistor
R11 (net84 VSS) resistor
R10 (net84 VSS) resistor
R9 (net36 VSS) resistor
R8 (net36 VSS) resistor
R7 (net26 VSS) resistor
R6 (net111 net84) resistor
R5 (net103 net36) resistor
R4 (net104 net26) resistor
R3 (net106 net26) resistor
R2 (net110 net26) resistor
R1 (net113 net109) resistor
R0 (net101 net102) resistor
Q30 (net91 net62 VSS 0) npn
Q29 (VDD net61 net62 0) npn
Q28 (net61 net71 net96 0) npn
Q27 (VDD net46 net57 0) npn
Q26 (net61 net57 net95 0) npn
Q25 (net46 net57 net94 0) npn
Q24 (net69 net72 net71 0) npn
Q23 (VOUT1 VOUT1 net69 0) npn
Q22 (net68 net67 net69 0) npn
Q21 (net68 net68 net67 0) npn
Q20 (net68 net77 VOUT1 0) npn
Q19 (VDD net68 net77 0) npn
Q15 (net38 VB2 net105 0) npn
Q14 (net44 net37 net40 0) npn
Q13 (net40 net40 net111 0) npn
Q12 (net37 net40 net103 0) npn
Q9 (net35 VB2 net104 0) npn
Q8 (net30 VB2 net106 0) npn
Q7 (net24 VB2 net110 0) npn
Q6 (VDD VIN1 net24 0) npn
Q5 (VDD VOUT1 net35 0) npn
Q4 (net33 net35 net113 0) npn
Q3 (net28 net24 net101 0) npn
Q2 (VDD VB1 net107 0) npn
Q31 (VSS net91 net61 0) pnp
Q18 (net68 VB3 net97 0) pnp
Q17 (net91 VB3 net98 0) pnp
Q16 (net58 VB3 net99 0) pnp
Q0 (net33 VB1 net108 0) pnp
Q11 (net30 net30 net102 0) pnp
Q10 (net30 net30 net109 0) pnp
Q1 (net28 VB1 net112 0) pnp
M7 (net72 net91 net68 net68) pmos4
M6 (net61 VSS net58 net58) pmos4
M5 (net46 net45 net58 net58) pmos4
M2 (net38 net38 net107 VDD) pmos4
M1 (net44 net38 net28 VDD) pmos4
M0 (net37 net38 net33 VDD) pmos4
M4 (net45 VCLK1 net44 VSS) nmos4
M3 (net44 VCLK2 VSS VSS) nmos4
C1 (VOUT1 net45) capacitor
C0 (net91 net61) capacitor