C1 (net07 net06) capacitor
C0 (VOUT1 net045) capacitor
M3 (net06 VCLK1 VSS VSS) nmos4
M2 (net045 VCLK2 net06 VSS) nmos4
M1 (net07 VCLK1 VIN1 VSS) nmos4
M0 (VOUT1 VCLK2 net07 VSS) nmos4
M14 (net041 net045 IB1 net046) nmos4
M15 (net042 VSS IB1 net046) nmos4
M20 (VOUT1 VB1 net043 VSS) nmos4
M16 (net038 VB1 net047 VSS) nmos4
M18 (net043 net038 VSS VSS) nmos4
M17 (net047 net038 VSS VSS) nmos4
M23 (net042 VB3 VDD VDD) pmos4
M21 (net041 VB3 VDD VDD) pmos4
M22 (net038 VB2 net042 VDD) pmos4
M19 (VOUT1 VB2 net041 VDD) pmos4