M13 (IOUT2 net080 net079 VSS) nmos4
M12 (net079 VIN2 VSS VSS) nmos4
M9 (net082 VCONT1 IB2 net089) nmos4
M8 (net091 net083 VSS VSS) nmos4
M7 (net088 net079 IB2 net089) nmos4
M6 (net080 VB1 net090 VSS) nmos4
M5 (net090 net083 VSS VSS) nmos4
M4 (net083 VB1 net091 VSS) nmos4
M1 (IOUT1 net077 net078 VSS) nmos4
M0 (net078 VIN1 VSS VSS) nmos4
M16 (net073 VB1 net094 VSS) nmos4
M18 (net092 net073 VSS VSS) nmos4
M20 (net077 VB1 net092 VSS) nmos4
M14 (net076 net078 IB2 net093) nmos4
M17 (net094 net073 VSS VSS) nmos4
M15 (net085 VCONT1 IB2 net093) nmos4
M11 (net080 VB2 net088 VDD) pmos4
M10 (net083 VB2 net082 VDD) pmos4
M3 (net088 VB3 VDD VDD) pmos4
M2 (net082 VB3 VDD VDD) pmos4
M23 (net085 VB3 VDD VDD) pmos4
M19 (net077 VB2 net076 VDD) pmos4
M22 (net073 VB2 net085 VDD) pmos4
M21 (net076 VB3 VDD VDD) pmos4
R1 (VDD IOUT2) resistor
R0 (VDD IOUT1) resistor