R7 (VSS net18) resistor
R6 (VSS net15) resistor
R5 (VSS net12) resistor
R4 (IOUT2 VDD) resistor
R3 (IOUT1 VDD) resistor
R2 (VSS net7) resistor
R1 (VSS net3) resistor
R0 (net3 net7) resistor
Q9 (net17 net17 net18 0) npn
Q8 (VDD net8 net17 0) npn
Q7 (net14 net14 net15 0) npn
Q6 (VDD net4 net14 0) npn
Q5 (IOUT1 net15 net12 0) npn
Q4 (IOUT2 net18 net12 0) npn
Q3 (net8 VIN2 net7 0) npn
Q2 (VDD VDD net8 0) npn
Q1 (net4 VIN1 net3 0) npn
Q0 (VDD VDD net4 0) npn