Q3 (VDD VIN1 net013 0) npn
Q2 (VDD VIN2 net012 0) npn
Q1 (net030 net030 net02 0) npn
Q0 (net036 net036 net02 0) npn
Q4 (IOUT2 net036 net033 0) npn
Q5 (IOUT1 net030 net033 0) npn
R2 (VSS net02) resistor
R1 (net036 net012) resistor
R0 (net030 net013) resistor
R3 (IOUT1 VDD) resistor
R4 (IOUT2 VDD) resistor
R5 (VSS net033) resistor