R1 (VDD VOUT2) resistor
R0 (VDD VOUT1) resistor
Q3 (VOUT2 net12 IB2 0) npn
Q2 (VOUT2 net12 IB1 0) npn
Q1 (VOUT1 net13 IB1 0) npn
Q0 (VOUT1 net13 IB2 0) npn
C1 (VOUT2 net12) capacitor
C0 (VOUT1 net13) capacitor
M4 (VIN1 VCONT1 net12 VSS) nmos4
M3 (VIN2 VCONT1 net12 VSS) nmos4
M2 (VIN3 VCONT1 net13 VSS) nmos4
M1 (VIN4 VCONT1 net13 VSS) nmos4