M3 (VOUT1 VB1 net9 VDD) pmos4
M2 (net3 VB1 net13 VDD) pmos4
M1 (net9 VB3 VDD VDD) pmos4
M0 (net13 VB3 VDD VDD) pmos4
M13 (net24 VCLK2 net28 VSS) nmos4
M12 (VIN1 VCLK1 net24 VSS) nmos4
M9 (net9 net28 IB1 VSS) nmos4
M8 (net13 VSS IB1 VSS) nmos4
M7 (net20 net3 VSS VSS) nmos4
M6 (net23 net3 VSS VSS) nmos4
M5 (VOUT1 VB2 net20 VSS) nmos4
M4 (net3 VB2 net23 VSS) nmos4
C1 (net28 VOUT1) capacitor
C0 (net24 VSS) capacitor