M21 (net73 VCLK2 net75 VSS) nmos4
M20 (VIN3 VCLK1 net66 VSS) nmos4
M19 (net74 VCLK2 net75 VSS) nmos4
M18 (VIN2 VCLK1 net68 VSS) nmos4
M17 (net74 VCLK1 VSS VSS) nmos4
M16 (net68 VCLK2 VSS VSS) nmos4
M13 (net73 VCLK1 VSS VSS) nmos4
M12 (net66 VCLK2 VSS VSS) nmos4
M9 (net81 net75 IB1 VSS) nmos4
M8 (net86 VSS IB1 VSS) nmos4
M5 (VOUT1 VB2 net88 VSS) nmos4
M4 (net77 VB2 net89 VSS) nmos4
M7 (net88 net77 VSS VSS) nmos4
M6 (net89 net77 VSS VSS) nmos4
M1 (net81 VB3 VDD VDD) pmos4
M0 (net86 VB3 VDD VDD) pmos4
M3 (VOUT1 VB1 net81 VDD) pmos4
M2 (net77 VB1 net86 VDD) pmos4
C4 (net75 VOUT1) capacitor
C2 (net73 net66) capacitor
C3 (net74 net68) capacitor
C0 (net75 VIN1) capacitor