C1 (net111 VIN1) capacitor
C2 (net115 net118) capacitor
C3 (net109 net108) capacitor
C4 (net111 VOUT1) capacitor
M19 (net118 VCLK2 VOUT1 VSS) nmos4
M18 (net111 VCLK1 net115 VSS) nmos4
M15 (net109 VCLK2 net111 VSS) nmos4
M14 (VIN1 VCLK1 net108 VSS) nmos4
M13 (net118 VCLK1 VSS VSS) nmos4
M12 (net115 VCLK2 VSS VSS) nmos4
M17 (net109 VCLK1 VSS VSS) nmos4
M16 (net108 VCLK2 VSS VSS) nmos4
M9 (net117 net111 IB1 VSS) nmos4
M8 (net123 VSS IB1 VSS) nmos4
M5 (VOUT1 VB2 net126 VSS) nmos4
M4 (net112 VB2 net127 VSS) nmos4
M7 (net126 net112 VSS VSS) nmos4
M6 (net127 net112 VSS VSS) nmos4
M1 (net117 VB3 VDD VDD) pmos4
M0 (net123 VB3 VDD VDD) pmos4
M3 (VOUT1 VB1 net117 VDD) pmos4
M2 (net112 VB1 net123 VDD) pmos4