R2 (net85 VOUT1) resistor
R1 (VIN1 net85) resistor
R0 (net93 net94) resistor
C2 (net85 VOUT1) capacitor
C1 (VIN1 net94) capacitor
C0 (VIN1 net85) capacitor
C4 (net93 net85) capacitor
C5 (VOUT1 net94) capacitor
M9 (net90 net85 IB1 VSS) nmos4
M8 (net105 VSS IB1 VSS) nmos4
M5 (net93 VB2 net123 VSS) nmos4
M4 (net86 VB2 net124 VSS) nmos4
M27 (net99 net94 IB2 VSS) nmos4
M26 (net121 VSS IB2 VSS) nmos4
M7 (net123 net86 VSS VSS) nmos4
M6 (net124 net86 VSS VSS) nmos4
M25 (VOUT1 VB5 net125 VSS) nmos4
M24 (net95 VB5 net126 VSS) nmos4
M23 (net125 net95 VSS VSS) nmos4
M22 (net126 net95 VSS VSS) nmos4
M1 (net90 VB3 VDD VDD) pmos4
M0 (net105 VB3 VDD VDD) pmos4
M3 (net93 VB1 net90 VDD) pmos4
M2 (net86 VB1 net105 VDD) pmos4
M31 (net99 VB6 VDD VDD) pmos4
M30 (net121 VB6 VDD VDD) pmos4
M29 (VOUT1 VB4 net99 VDD) pmos4
M28 (net95 VB4 net121 VDD) pmos4