C1 (net105 net94) capacitor
C0 (net101 VIN1) capacitor
C2 (net105 net92) capacitor
C4 (net101 VOUT1) capacitor
M18 (net94 VCLK2 VOUT1 VSS) nmos4
M17 (net105 VCLK2 net101 VSS) nmos4
M16 (VIN1 VCLK1 net92 VSS) nmos4
M15 (net94 VCLK1 VSS VSS) nmos4
M13 (net105 VCLK1 VSS VSS) nmos4
M12 (net92 VCLK2 VSS VSS) nmos4
M9 (net99 net101 IB1 VSS) nmos4
M8 (net107 VSS IB1 VSS) nmos4
M5 (VOUT1 VB2 net110 VSS) nmos4
M4 (net95 VB2 net111 VSS) nmos4
M7 (net110 net95 VSS VSS) nmos4
M6 (net111 net95 VSS VSS) nmos4
M1 (net99 VB3 VDD VDD) pmos4
M0 (net107 VB3 VDD VDD) pmos4
M3 (VOUT1 VB1 net99 VDD) pmos4
M2 (net95 VB1 net107 VDD) pmos4