M15 (net047 VCLK1 net046 VSS) nmos4
M14 (net047 VCLK2 net045 VSS) nmos4
M10 (net52 VCLK1 VOUT1 VSS) nmos4
M16 (VIN1 VCLK2 net043 VSS) nmos4
M9 (net052 net046 IB1 VSS) nmos4
M8 (net055 VSS IB1 VSS) nmos4
M5 (net52 VB2 net057 VSS) nmos4
M4 (net048 VB2 net058 VSS) nmos4
M12 (net043 VCLK1 VSS VSS) nmos4
M7 (net057 net048 VSS VSS) nmos4
M6 (net058 net048 VSS VSS) nmos4
M18 (net045 VCLK1 VSS VSS) nmos4
M1 (net052 VB3 VDD VDD) pmos4
M0 (net055 VB3 VDD VDD) pmos4
M3 (net52 VB1 net052 VDD) pmos4
M2 (net048 VB1 net055 VDD) pmos4
C1 (net52 net047) capacitor
C0 (net046 net045) capacitor
C2 (net045 net043) capacitor
C4 (net046 net52) capacitor