M25 (net107 VCLK3 VSS VSS) nmos4
M24 (net104 VCLK2 VSS VSS) nmos4
M23 (net107 VCLK2 VOUT1 VSS) nmos4
M22 (net103 VCLK3 net104 VSS) nmos4
M15 (VOUT1 net123 net113 VSS) nmos4
M14 (net123 VOUT1 net122 VSS) nmos4
M13 (net113 net135 net112 VSS) nmos4
M12 (net122 VSS net112 VSS) nmos4
M10 (net112 VCLK1 VSS VSS) nmos4
M9 (net101 net103 IB1 VSS) nmos4
M8 (net117 VSS IB1 VSS) nmos4
M5 (net135 VB2 net133 VSS) nmos4
M4 (net97 VB2 net134 VSS) nmos4
M7 (net133 net97 VSS VSS) nmos4
M6 (net134 net97 VSS VSS) nmos4
C1 (net104 net107) capacitor
C0 (net103 VOUT1) capacitor
C4 (net103 net135) capacitor
M21 (net122 VCLK1 VDD VDD) pmos4
M20 (net113 VCLK1 VDD VDD) pmos4
M19 (VOUT1 VCLK1 VDD VDD) pmos4
M18 (VOUT1 net123 VDD VDD) pmos4
M17 (net123 VOUT1 VDD VDD) pmos4
M16 (net123 VCLK1 VDD VDD) pmos4
M1 (net101 VB3 VDD VDD) pmos4
M0 (net117 VB3 VDD VDD) pmos4
M3 (net135 VB1 net101 VDD) pmos4
M2 (net97 VB1 net117 VDD) pmos4