M32 (net196 net194 VSS VSS) nmos4
M31 (VIN1 net195 net196 VSS) nmos4
M30 (net200 VCLK2 VSS VSS) nmos4
M29 (net200 VCLK3 net204 VSS) nmos4
M28 (VCLK4 net215 net195 VSS) nmos4
M27 (VCLK5 VOUT1 net195 VSS) nmos4
M26 (VCLK5 net215 net194 VSS) nmos4
M11 (VCLK4 VOUT1 net194 VSS) nmos4
M9 (net203 net204 IB1 VSS) nmos4
M8 (net218 VSS IB1 VSS) nmos4
M5 (net229 VB2 net227 VSS) nmos4
M4 (net197 VB2 net228 VSS) nmos4
M7 (net227 net197 VSS VSS) nmos4
M6 (net228 net197 VSS VSS) nmos4
M25 (net206 VCLK3 VSS VSS) nmos4
M23 (net206 VCLK2 VOUT1 VSS) nmos4
M15 (VOUT1 net224 net211 VSS) nmos4
M14 (net224 VOUT1 net223 VSS) nmos4
M13 (net211 net229 net210 VSS) nmos4
M12 (net223 VSS net210 VSS) nmos4
M10 (net210 VCLK1 VSS VSS) nmos4
C2 (net200 net196) capacitor
C4 (net204 net229) capacitor
C1 (net200 net206) capacitor
C0 (net204 VOUT1) capacitor
M1 (net203 VB3 VDD VDD) pmos4
M0 (net218 VB3 VDD VDD) pmos4
M3 (net229 VB1 net203 VDD) pmos4
M2 (net197 VB1 net218 VDD) pmos4
M21 (net223 VCLK1 VDD VDD) pmos4
M20 (net211 VCLK1 VDD VDD) pmos4
M19 (VOUT1 VCLK1 VDD VDD) pmos4
M18 (VOUT1 net224 VDD VDD) pmos4
M17 (net224 VOUT1 VDD VDD) pmos4
M16 (net224 VCLK1 VDD VDD) pmos4
I0 (VOUT1 net215 VDD VSS) INVERTER