Q13 (VSS net28 LOGICQ1 0) npn
Q12 (VSS net26 LOGICQ2 0) npn
Q11 (net27 VLATCH1 IB6 0) npn
Q10 (net23 VTRACK1 IB6 0) npn
Q9 (net28 LOGICQ2 net27 0) npn
Q8 (net26 LOGICQ1 net27 0) npn
Q7 (net28 IB5 net23 0) npn
Q6 (net26 IB4 net23 0) npn
Q5 (VSS net19 IB5 0) npn
Q4 (VSS net17 IB4 0) npn
Q3 (net19 IB2 IB3 0) npn
Q2 (net17 IB1 IB3 0) npn
Q1 (VSS VREF1 IB2 0) npn
Q0 (VSS VIN1 IB1 0) npn
R5 (LOGICQ1 VDD) resistor
R4 (LOGICQ2 VDD) resistor
R3 (VSS net28) resistor
R2 (VSS net26) resistor
R1 (VSS net19) resistor
R0 (VSS net17) resistor