M1 (VOUT2 VOUT1 VSS VSS) nmos4
M0 (VOUT1 VOUT2 VSS VSS) nmos4
L1 (VDD VOUT2) inductor
L0 (VDD VOUT1) inductor
C1 (VOUT2 VSS) capacitor
C0 (VOUT1 VSS) capacitor