Q2 (VDD net15 net16 0) npn
Q1 (net13 net10 net12 0) npn
Q0 (net8 net5 net7 0) npn
R10 (net16 VSS) resistor
R9 (net15 VSS) resistor
R8 (VDD net15) resistor
R7 (net12 VSS) resistor
R6 (VDD net13) resistor
R5 (net10 VSS) resistor
R4 (VDD net10) resistor
R3 (net7 VSS) resistor
R2 (net5 VSS) resistor
R1 (VDD net8) resistor
R0 (VDD net5) resistor
C5 (VOUT1 net16) capacitor
C4 (net12 VSS) capacitor
C3 (net15 net13) capacitor
C2 (net7 VSS) capacitor
C1 (net10 net8) capacitor
C0 (net5 VIN1) capacitor