M3 (VOUT1 net19 VDD VDD) pmos4
M2 (net19 net15 VDD VDD) pmos4
M1 (net15 net14 VDD VDD) pmos4
M0 (net14 net14 VDD VDD) pmos4
M9 (VOUT1 net7 VSS VSS) nmos4
M8 (net19 net7 VSS VSS) nmos4
M7 (net13 net7 VSS VSS) nmos4
M6 (net7 net7 VSS VSS) nmos4
M5 (net15 VSS net13 VSS) nmos4
M4 (net14 VIN1 net13 VSS) nmos4
R0 (VDD net7) resistor