D4 (net01 net02) diode
D3 (net016 VSS) diode
D2 (net015 net016) diode
D1 (net014 net015) diode
D0 (net01 net014) diode
Q5 (net03 net07 VSS 0) npn
Q4 (IB1 net07 VSS 0) npn
Q3 (net05 net03 net07 0) npn
R2 (VDD net01) resistor
R1 (net02 net03) resistor
R0 (net07 VSS) resistor
Q2 (IB2 net05 VDD 0) pnp
Q1 (net02 net05 VDD 0) pnp
Q0 (net05 net05 VDD 0) pnp